US03948928
1,2-Benzisoxazole-3-acetamidoxime
To a solution of hydroxylamine hydrochloride (0.17 g) and sodium carbonate (0.13 g) in water (5 ml) was added a solution of 1,2-benzisoxazole-3-acetamidine hydrochloride (0.21 g) in ethanol (10 ml) and the mixture was heated on water bath at 80°C for 1 hour. The solvent was distilled off under a reduced pressure and to the residue was added water. The mixture was made alkaline with sodium bicarbonate and the precipitated crystalline were separated by filtration, washed with water, dried and recrystallized from ethanol to give the desired compound (0.16 g). m.p. 160° to 162°C.

reactant | hydroxylamine hydrochloride | 0.17 g | Cl.NO
reactant | sodium carbonate | 0.13 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1,2-benzisoxazole-3-acetamidine hydrochloride | 0.21 g | Cl.O1N=C(C2=C1C=CC=C2)CC(=N)N
solvent | water | 5 ml | O | H2O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 1,2-Benzisoxazole-3-acetamidoxime | 0.16 g | O1N=C(C2=C1C=CC=C2)CC(N)=NO | C9H9N3O2
